US04022777
A solution of 6 parts of methyl chloroformate in 50 parts of tetrahydrofuran was added over 30 minutes to a suspension of 4 parts of 2-methyl-1H-imidazo[4,5-b]quinoxaline in 200 parts of tetrahydrofuran and 6 parts of pyridine. The heterogeneous reaction mixture was stirred at 25° for 17 hours. Concentration in vacuo, addition of 200 parts of CH2Cl2, washing with 500 parts of 5% HCl, drying over sodium sulfate, and concentrating in vacuo left a pale yellow solid. Recrystallization from chloroform-hexane gave almost colorless 1-methoxycarbonyl-2-methyl-1H-imidazo[4,5-b]quinoxaline, m.p. 184° (dec.).

reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | 2-methyl-1H-imidazo[4,5-b]quinoxaline | CC1=NC=2C(=NC3=CC=CC=C3N2)N1 | C10H8N4
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-methoxycarbonyl-2-methyl-1H-imidazo[4,5-b]quinoxaline | COC(=O)N1C(=NC=2C1=NC1=CC=CC=C1N2)C | C12H10N4O2
